*
* Limited CD4510 BCD counter model for ngspice
*
* Usage notes:
*    - You can set the logic voltage by defining a value for the 
*      `vdd_supply` parameter (defaults to 5).
*    - The file `cd4510fsm.in``, which defines the counter
*      behaviour, must be located in the same folder as the 
*      simulation is run from (typically the folder containing
*      the .kicad_sch file) OR you'll need to edit the 
*      path in the `d_state()` .model card below. 
*
* The model is built using XSPICE behaviourial elements (the 'a' components).
* Details of ngspice support for XSPICE models can be found at 
* https://ngspice.sourceforge.io/docs/ngspice-html-manual/manual.xhtml#cha_Behavioral_Modeling 
*
* Modeling approach inspired by Holger Vogt's 3-bit counter example
* https://github.com/labtroll/KiCad-Simulations/tree/main/up-down-counter
*
* CD4510 characteristics based on the Texas Instruments datasheet
* https://www.ti.com/lit/ds/symlink/cd4510b.pdf
*
* Allan McInnes / University of Canterbury / 2024-12-10
*
* Revision History
* -----------------
* 2024-12-10 - initial release
*
* Disclaimer: Intended for use in ENEL200 simulation labs. Not guaranteed to 
*             be adequate or sufficient for any other use.
* 

.param vdd_supply = 5

*** CD4510
* An up/down counter that counts positive clock transitions
* and outputs a BCD value
*  
*
.subckt CD4510 preset_enable out_q4 pre4 pre1 carry_in out_q1 carry_out gnd reset up_down out_q2 pre2 pre3 out_q3 clock vdd vsupp={vdd_supply}

* Digital "zero"
a0 logic_zero pulldown1
.model pulldown1 d_pulldown(load = 1pF)

* Map analog inputs to digital values, using vdd to determine thresholds
* This should override the "automatic" adc bridge that would otherwise be produced
abridge1 [clock reset preset_enable carry_in up_down pre1 pre2 pre3 pre4] [clk rst pen cin upd p1 p2 p3 p4] adc1
.model adc1 adc_bridge(in_low = {0.3*vsupp} in_high = {0.7*vsupp})

* Digital outputs are generated by a state machine on the BCD pins (q1, q2, q3, q4) and the carry output
* See https://ngspice.sourceforge.io/docs/ngspice-html-manual/manual.xhtml#subsec_State_Machine
* A state machine has four ports: inputs, clock, reset, and outputs
*   inputs                        clock reset   outputs
*     |                            |     |       |    
afsm  [upd cin pen p1 p2 p3 p4]  clk   rst    [q1 q2 q3 q4 cout] cd4510fsm
* Edit path below to locate "cd4026fsm.in" relative to the folder the simulation is run from.
* Example: if "cd4510fsm.in" is one folder above your schematic, the path should be "..\cd4510fsm.in"
.model cd4510fsm d_state(state_file = "cd4510fsm.in")

* Map digital outputs to analog voltages, using vdd to determine thresholds
* This should override the "automatic" dac bridge that would otherwise be produced
abridge2 [q1 q2 q3 q4 cout] [out_q1 out_q2 out_q3 out_q4 carry_out] dac1
.model dac1 dac_bridge(out_low = 0 out_high = {vsupp} out_undef = {0.5*vsupp})

.ends
*** end CD4510