* Simple dual opamp ngspice model for the LM358 op-amp
*
* Model parameters based on data from https://www.ti.com/lit/ds/symlink/lm358.pdf
*
* The model was built as a KiCad schematic, and then exported as a SPICE netlist for
* inclusion in this file.
*
* Notes:
*   Output voltage limits approximated by nonlinear voltage limiter, with limits
*     estimated based on Fig 3-5 of https://www.ti.com/lit/pdf/sloa277
*   Does not include input offset current or input bias current.
*   Does not model slew rates or noise.
*   Does not model supply currents.
*   Input impedance and output impedance estimated from LM368B datasheet and measurements on LM358.
*
* The basic modeling approach is the standard Voltage-Controlled Voltage Source with series output resistance found in
* most circuit analysis textbooks. To this we add a slightly more detailed model of input impedance (the parallel cap), 
* and an output stage that enforces voltage limits relative to the power rails.
*
* See the following for good discussions of how to model op-amps in SPICE:
*   http://www.ecircuitcenter.com/Circuits/opmodel1/opmodel1.htm 
*   https://masteringelectronicsdesign.com/build-an-op-amp-spice-model-from-its-datasheet-part-4/ 
*
* See also http://ngspice.sourceforge.net/ngspice-eeschema.html#multi
*
* Allan McInnes / University of Canterbury / 2024-01-24
*
* Revision History
* -----------------
* 2020       - initial release
* 2023-02    - Modified GBW to 1.2Mhz
* 2024-01    - Revert GBW to 0.7 MHz (match datasheet); add shunt resistor to improve convergence; rework to better fit KiCad 7.0 
* 2024-12-03 - Move internalLM358 inside top-level LM358 subckt
* 2024-12-05 - Add variable output voltage swing from rail approximated from SLOA277 
*            - Remove pole: it probably isn't relevant for most gain/frequency combinations likely to be used in ENEL200, and seems
*              to cause wildly inaccurate behaviour when attempting to use the op-amp open loop as a comparator
*            - Implement input offset voltage
*
* Disclaimer: Intended for use in ENEL200 simulation labs. Not guaranteed to be adequate or sufficient for any other use.
* 


* Complete dual op-amp package with A and B connections
.subckt LM358 out1 in1- in1+ v- in2+ in2- out2 v+
XUA out1 in1- in1+ v- v+ internalLM358
XUB out2 in2- in2+ v- v+ internalLM358

* Single (A) op-amp from a package
*
*                     out   in-  in+   v-  v+    
*                      |     |    |    |   |
*                      |     |    |    |   |
.subckt internalLM358 V_OUT V_IN- V_IN+ VEE VCC

.param RSHUNT=10G
.param ROUT=40

* Internal reference
B1 V_REF 0 V=0.5*(V(VCC) + V(VEE))
R_SHUNT1 V_REF 0 {RSHUNT}

* Output limit reference - based on a linear fit through output current vs voltage curve
B2 V_LIM 0 V=33.086*((V(V_ROUT)-V(V_OUT))/ROUT)+1.1745
R_SHUNT2 V_LIM 0 {RSHUNT}

* Input offset voltage
V_OFF V_IN+ V_IN+OFFSET 410u
R_SHUNT3 V_IN+OFFSET 0 {RSHUNT}

* Input impedance and gain
R_INPUT_DIFF1 V_IN+OFFSET V_IN- 10Meg
C_INPUT_DIFF1 V_IN+OFFSET V_IN- 0.1p
E1 V_GAIN 0 V_IN+OFFSET V_IN- 100k
R_SHUNT4 V_GAIN 0 {RSHUNT}

* Output saturation 
B_BUFFER1 V_ROUT V_REF V = ((V(V_GAIN) < (V(VEE)+5m)) ? (V(VEE)+5m) : ((V(V_GAIN) > (V(VCC)-V(V_LIM))) ? (V(VCC)-V(V_LIM)) : V(V_GAIN))) - V(V_REF)
R_SHUNT5 V_ROUT 0 {RSHUNT}

* Output impedance
R_OUTPUT1 V_OUT V_ROUT {ROUT}

.ends
.ends


